US09169502B2
Crude cell extracts were prepared in 100 mM Tris/HCl at pH 7.8. Determination of TKT activity required application of several coupling enzymes. RPI and RPE served as coupling enzymes to provide the substrates ribulose 5-phosphate and xylulose 5-phosphate from ribose 5-phosphate (R5P) supplied in the assay. Online monitoring at 340 nm was enabled by further conversion of glyceraldehyde 3-phosphate as product of the TKT reaction by triosephosphate isomerase and glycerophosphate dehydrogenase (TPI/GDH). In contrast to the above mentioned procedure, two distinct mastermixes were prepared. Mix A contained buffer, TPI, RPI, RPE and NADH in a total volume of 650 μl, mix B contained buffer, TPP, MgCl2 and cell extract in a total volume of 300 μl. Both were pre-warmed for 10 min at 30° C. Ribose 5-phosphate was provided in the cuvette and the reaction was started by subsequent addition of mix B and mix A. The final reaction mix contained 50 mM Tris/HCl (pH 7.8), 0.5 mM NADH, 1 U RPI, 0.5 U RPE, 1 U TPI/GDH, 10 mM MgCl2, 0.2 mM TPP, 20 mM R5P and 50 μl of crude cell extract.

reactant | glyceraldehyde 3-phosphate | P(=O)(O)(O)OCC(C=O)O | C3H7O6P
reactant | glycerophosphate | C(C(COP(=O)(O)O)O)O | C3H9O6P
reactant | NADH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
product | Ribose 5-phosphate | P(=O)(O)(O)OC[C@H]([C@H]([C@H](C=O)O)O)O | C5H11O8P
